US06544982B1
Step 1: (4-bromo-butyl)-naphthalen-1-ylmethyl-(3-phenyl-isoxazol-5-yl)-amine
Charged flask with a 60% sodium hydride in oil dispersion (64.0 mg, 1.6 mmol) and suspended in DMF (1 ml). A DMF (1 ml) solution of naphthalen-1-ylmethyl-(3-phenyl-isoxazol-5-yl)-amine (300 mg, 1.0 mmol) was added and the mixture stirred under argon at rt for 30 min resulting in a light yellow solution. After adding 1,4-dibromobutane (358 μl, 3.0 mmol), the reaction was stirred at rt for 1 hr, poured into 10% sodium bicarbonate (aq) and extracted with ethyl acetate (3×). The extracts were combined, washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo to give a crude oil (181 mg). Flash chromatography on silica gel (10% ethyl acetate in hexane) gave the product as a colorless oil (114 mg, 26.2%).

reactant | sodium hydride | [H-].[Na+]
reactant | naphthalen-1-ylmethyl-(3-phenyl-isoxazol-5-yl)-amine | 1.0 mmol, 300 mg | C1(=CC=CC2=CC=CC=C12)CNC1=CC(=NO1)C1=CC=CC=C1 | C20H16N2O
reactant | 1,4-dibromobutane | 3.0 mmol, 358 μl | BrCCCCBr | C4H8Br2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (4-bromo-butyl)-naphthalen-1-ylmethyl-(3-phenyl-isoxazol-5-yl)-amine | 114 mg, 26.2% | BrCCCCN(C1=CC(=NO1)C1=CC=CC=C1)CC1=CC=CC2=CC=CC=C12 | C24H23BrN2O
